US07205301B2
1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,5-dihydro-1H-pyrazol-3-ol
To a mixture of (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine (7.82 g, 0.025 mol) and Methyl acrylate (2.58 g, 0.030 mol) in tert BuOH (80 ml) is added Potassium tert-butoxyde (5.6 g, 0.05 mol) in portions at 25° C. After stirring for two hours the resulting brown solution is poured in water (500 ml), acidified with acetic acid and partitioned between ethyl acetate and water. The organic phase is separated, dried over magnesium sulfate, filtered and evaporated under reduced pressure. The residue is purified by crystallizing from acetone. The resulting precipitate is filtered with suction to yield the title compound. (1.55 g, 16.9%) m.p. 222–226° C.

reactant | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.025 mol, 7.82 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
reactant | Methyl acrylate | 0.030 mol, 2.58 g | C(C=C)(=O)OC | C4H6O2
reactant | Potassium | [K] | K
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | BuOH | 80 ml | C(CCC)O | C4H10O
solvent | water | 500 ml | O | H2O
product | 1-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,5-dihydro-1H-pyrazol-3-ol | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(CC1)O | C18H15ClN6O
